Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.40741269244
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[C:6][H:7].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:8]([H:9])[H:10],5.28688363228
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3][C:4]#[C:5][H:6],5.12242738204
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.36363963559
[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-4.99527657788
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.198821436359999
[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[C:2]=[C:6]([H:7])[H:8].[O:1][C:5]([H:3])=[O:4],3.36251438761
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.29307565996
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12][H:13],4.970560287930001
[H:12].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.43567235742
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3031196659
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[H:12],2.16234419081
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],1.36627276486
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.79036110523
[O:1]=[C:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:9]([O:8])([H:10])[H:11],0.2777521036499999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],2.9014587540900005
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1]/[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14],2.25724176806
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8],3.98659502628
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-3.94891110154
[H:1][C:2]#[C:3][O:4][O:5].[H:6]>>[H:1][C:2]#[C:3][O:4][O:5][H:6],-4.0125714542000015
[C:1].[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8],-5.678606698489999
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.88316854387
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:3],1.9893780258
[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]([H:5])[H:6],-2.50040770901
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:7]#[C:8][O:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.84611614795
[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.160401473619
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.494259286980001
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])[O:9][H:10].[H:6],3.32526927875
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.7697529703
